US07732461B2
(4R)-4-({4-[(2,3-Dihydro-1,4-benzodioxin-6-ylmethyl)amino]-1-piperidinyl}methyl)-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Dihydrochloride
The title compound was prepared from (4R)-4-[(4-amino-1-piperidinyl)methyl]-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Enantiomer 1 and 2,3-dihydro-1,4-benzodioxin-6-carboxaldehyde (Aldrich) according to the general method of Example 2(h) (except that the dihydrochloride was prepared) in 71% yield.

reactant | (4R)-4-[(4-amino-1-piperidinyl)methyl]-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | NC1CCN(CC1)C[C@@H]1CN2C=3C1=C(C=NC3C=CC2=O)F | C16H19FN4O
reactant | 2,3-dihydro-1,4-benzodioxin-6-carboxaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | (4R)-4-({4-[(2,3-Dihydro-1,4-benzodioxin-6-ylmethyl)amino]-1-piperidinyl}methyl)-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Dihydrochloride | 71% yield | Cl.Cl.O1CCOC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C=3C2=C(C=NC3C=CC1=O)F | InChI=1S/C25H27FN4O3.2ClH/c26-19-13-28-20-2-4-23(31)30-15-17(24(19)25(20)30)14-29-7-5-18(6-8-29)27-12-16-1-3-21-22(11-16)33-10-9-32-21;;/h1-4,11,13,17-18,27H,5-10,12,14-15H2;2*1H/t17-;;/m1../s1
